US07273875B2
6-amino-8-(3-cyanophenyl)-1,7-naphthyridine
To a mixture of tetrahydrofuran (THF) (80 ml) and 2 N sodium carbonate (34 ml, aqueous) is added 6-amino-8-bromo-1,7-naphthyridine (4.007 g), triphenylphosphine (0.37 g) and 3-cyanophenylboronic acid (323 g). The mixture is degassed under argon three times and then bis(dibenzylideneacetone)palladium (0) (0.4 g) is added and the mixture is degassed under argon three more times. The mixture is heated at 80° C. under argon for 16 hours then cooled and filtered. The mixture is diluted with ethyl acetate and washed with 2 N sodium hydroxide then brine. After drying over sodium sulfate the organic layer is evaporated and suspended in ether. The solid precipitate thus obtained is the title compound, which is filtered off. M.p. 182-184° C. HRMS [M+H]+ found=247.1.

reactant | sodium carbonate | 2 N, 34 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-amino-8-bromo-1,7-naphthyridine | 4.007 g | NC=1C=C2C=CC=NC2=C(N1)Br | C8H6BrN3
reactant | triphenylphosphine | 0.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-cyanophenylboronic acid | 323 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 6-amino-8-(3-cyanophenyl)-1,7-naphthyridine | NC=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N | C15H10N4
